US07816391B2
Ethyl 1-(4-bromophenyl)-5-cyclopropyl-pyrazole-4-carboxylate (Intermediate# 31) (423 mg, 1.29 mmol) was dissolved in methanol (20 mL) and treated with 2M aqueous sodium hydroxide solution (3.23 mL, 6.46 mmol). The mixture was stirred at ambient temperature for 24 h and then the methanol was removed by evaporation under reduced pressure. The residue was dissolved in water (50 mL), acidified to pH4 with 2M HCl and extracted with EtOAc (3×25 mL). The combined extracts were washed with water and brine, dried (MgSO4) and evaporated to leave 1-(4-bromophenyl)-5-cyclopropyl-pyrazole-4-carboxylic acid a white solid. (343 mg, 87%).

reactant | Ethyl 1-(4-bromophenyl)-5-cyclopropyl-pyrazole-4-carboxylate | 1.29 mmol, 423 mg | BrC1=CC=C(C=C1)N1N=CC(=C1C1CC1)C(=O)OCC | C15H15BrN2O2
reactant | sodium hydroxide | 6.46 mmol, 2M, 3.23 mL | [OH-].[Na+]
solvent | methanol | 20 mL | CO | CH4O
product | 1-(4-bromophenyl)-5-cyclopropyl-pyrazole-4-carboxylic acid | BrC1=CC=C(C=C1)N1N=CC(=C1C1CC1)C(=O)O | C13H11BrN2O2
